US08877805B2
Step 1. Synthesis of 2-{[5-(benzyloxycarbonyl)furan-2-yl](hydroxy)methyl}prop-2-enoic acid tert-butyl ester
5-Formyl-2-furancarboxylic acid benzyl ester (0.2 g, 0.87 mmol), acrylic acid tert-butyl ester (0.52 mL), and 1,4-diazabicyclo[2.2.2]octane (20 mg, 0.18 mmol) were mixed, and the mixture was stirred for 4 days. Excess acrylic acid tert-butyl ester was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give the title compound (0.26 g).

reactant | 5-Formyl-2-furancarboxylic acid benzyl ester | 0.87 mmol, 0.2 g | C(C1=CC=CC=C1)OC(=O)C=1OC(=CC1)C=O | C13H10O4
reactant | acrylic acid tert-butyl ester | 0.52 mL | C(C)(C)(C)OC(C=C)=O | C7H12O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.18 mmol, 20 mg | N12CCN(CC1)CC2 | C6H12N2
product | 2-{[5-(benzyloxycarbonyl)furan-2-yl](hydroxy)methyl}prop-2-enoic acid tert-butyl ester | 0.26 g | C(C)(C)(C)OC(C(=C)C(O)C=1OC(=CC1)C(=O)OCC1=CC=CC=C1)=O | C20H22O6
